US05169769
Step A: Preparation of 3-nitro-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone
Benzyloxyacetylchloride (14.2 mL, 0.09 mol) in dry tetrahydrofuran (10 mL) was added dropwise to a solution of 1-(N-morpholino)-1-butene (12.8 g, 0.09 mol) and triethylamine (12.6 mL, 0.09 mol) in dry tetrahydrofuran (120 mL) warmed at 70° C. under a nitrogen atmosphere. After 1.25 hours, the reaction was cooled to room temperature and nitroacetamide ammonium salt (12.0 g, 0.099 mol) was added followed by the dropwise addition of acetic acid (11.4 mL, 0.20 mol). After stirring for 20-24 hours, the reaction was diluted with chloroform (150 mL) and the solution washed with water, 10% HCl, dried (Na2SO4) and filtered througha pad of charcoal. The solvent was removed and the residue triturated with cold methanol. The crystalline yellow product was filtered, rinsed with methanol and diethyl ether to give the title compound, mp 157°-158° C.

reactant | Benzyloxyacetylchloride | 0.09 mol, 14.2 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | triethylamine | 0.09 mol, 12.6 mL | C(C)N(CC)CC | C6H15N
reactant | nitroacetamide ammonium salt | 0.099 mol, 12.0 g | [NH4+].[N+](=O)([O-])CC(=O)[NH-]
reactant | acetic acid | 0.20 mol, 11.4 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-nitro-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone | [N+](=O)([O-])C=1C(NC(=C(C1)CC)COCC1=CC=CC=C1)=O | C15H16N2O4
